US08802659B2
3-(2-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)propan-2-ylamino)propanoic acid
A solution of 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-1-methyl-ethylamino}-propionic acid methyl ester (36.0 mg, 0.0844 mmol) and Lithium hydroxide (20.2 mg, 0.844 mmol) in Tetrahydrofuran (1 mL, 20 mmol) and Water (0.3 mL, 20 mmol) was stirred at r.t. overnight. LCMS showed a single desired product peak RT 1.57 min M+1 at m/z 413.30, 100%. The solvent was concentrated and neutralized with citric acid and concentrated and Purified on HPLC to give product (20 mg, 57%). 1H NMR (400 MHz, CHLOROFORM-d) d=8.30 (d, J=8.7 Hz, 1H), 7.97 (d, J=9.2 Hz, 1H), 7.59 (d, J=8.7 Hz, 1H), 7.39 (dd, J=2.7, 9.2 Hz, 1H), 7.30 (d, J=2.5 Hz, 1H), 4.43-4.28 (m, 1H), 3.23 (t, J=6.6 Hz, 2H), 2.84 (t, J=6.6 Hz, 2H), 2.26 (d, J=10.4 Hz, 2H), 1.90 (d, J=13.6 Hz, 2H), 1.79 (s, 6H), 1.49-1.32 (m, 2H), 1.32-1.17 (m, 2H), 1.17-1.00 (m, 1H), 0.90 (s, 9H).

reactant | 3-{1-[6-(4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-1-methyl-ethylamino}-propionic acid methyl ester | 0.0844 mmol, 36.0 mg | COC(CCNC(C)(C)C1=NC2=CC=C(C=C2C=C1)OC1CCC(CC1)C(C)(C)C)=O | C26H38N2O3
reactant | Lithium hydroxide | 0.844 mmol, 20.2 mg | [OH-].[Li+]
reactant | Tetrahydrofuran | 20 mmol, 1 mL | O1CCCC1 | C4H8O
reactant | Water | 20 mmol, 0.3 mL | O | H2O
product | 3-(2-(6-((trans)-4-tert-butylcyclohexyloxy)quinolin-2-yl)propan-2-ylamino)propanoic acid | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=NC2=CC1)C(C)(C)NCCC(=O)O | C25H36N2O3
